US06177423B1
2-Hydroxy-5-nitro-7-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione
A mixture of 2-t-butyloxy-5-nitro-7-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione (0.09 g, 0.23 mmol, from Example D3-B) and TFA was stirred at room temperature for 4 hours and poured into water. The solid was filtered and washed with acetone to give (0.06 g, 80%) of the title compound, mp 290-291° C.

reactant | 2-t-butyloxy-5-nitro-7-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.23 mmol, 0.09 g | C(C)(C)(C)ON1C(C2=CC=C(C=3C2=C(C1=O)C=C(C3)[N+](=O)[O-])N3CCCC3)=O | C20H21N3O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
product | 2-Hydroxy-5-nitro-7-(pyrrolidin-1-yl)-benzo[de]isoquinoline-1,3-dione | 0.06 g, 80% | ON1C(C2=CC=C(C=3C2=C(C1=O)C=C(C3)[N+](=O)[O-])N3CCCC3)=O | C16H13N3O5
